US09029552B2
To a mixture of 0.74 g (2.9 mmol) of 2-(t-butoxycarbonyl)amino-4-chloro-6-hydroxymethylpyridine and 20 mL of dichloromethane 20 mL, 0.29 g (3.7 mmol) of pyridine was added, and 0.41 g (3.5 mmol) of thionyl chloride was further added, followed by stirring at room temperature for 3.5 hours. The reaction solution was added to water and saturated sodium bicarbonate aqueous solution was added thereby adjusting the pH to 6, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1 (v/v)) to obtain 0.56 g (2.0 mmol, yield of 71%) of 2-(t-butoxycarbonyl)amino-4-chloro-6-chloromethylpyridine.

reactant | 2-(t-butoxycarbonyl)amino-4-chloro-6-hydroxymethylpyridine | 2.9 mmol, 0.74 g | C(C)(C)(C)OC(=O)NC1=NC(=CC(=C1)Cl)CO | C11H15ClN2O3
reactant | dichloromethane | 3.7 mmol, 20 mL, 0.29 g | ClCCl | CH2Cl2
reactant | thionyl chloride | 3.5 mmol, 0.41 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(t-butoxycarbonyl)amino-4-chloro-6-chloromethylpyridine | 2.0 mmol, 0.56 g, yield of 71% | C(C)(C)(C)OC(=O)NC1=NC(=CC(=C1)Cl)CCl | C11H14Cl2N2O2
